US07220759B2
In the same manner as in Example 20b and using (R)-3-(2-methoxymethylpyrrolidin-1-yl)-N-methoxy-N-methylpropanamide (3.2 g) and N,N-diethyl-3-chloro-2-methylbenzamide (3.2 g), (R)-5-chloro-3-[2-(2-methoxymethylpyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one hydrochloride (1.1 g) was obtained.

reactant | (R)-3-(2-methoxymethylpyrrolidin-1-yl)-N-methoxy-N-methylpropanamide | 3.2 g | COC[C@@H]1N(CCC1)CCC(=O)N(C)OC | C11H22N2O3
reactant | N,N-diethyl-3-chloro-2-methylbenzamide | 3.2 g | C(C)N(C(C1=C(C(=CC=C1)Cl)C)=O)CC | C12H16ClNO
product | (R)-5-chloro-3-[2-(2-methoxymethylpyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one hydrochloride | 1.1 g | Cl.ClC1=C2C=C(NC(C2=CC=C1)=O)CCN1[C@H](CCC1)COC | InChI=1S/C17H21ClN2O2.ClH/c1-22-11-13-4-3-8-20(13)9-7-12-10-15-14(17(21)19-12)5-2-6-16(15)18;/h2,5-6,10,13H,3-4,7-9,11H2,1H3,(H,19,21);1H/t13-;/m1./s1
